US06921763B2
Cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine was prepared from cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo [3,4-d]pyrimidin-4-amine (0.200 g, 0.453 mmol) and N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine (0.216 g, 0.566 mmol) in a manner similar to that used for the preparation of cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine. The compound was formed as a pale yellow powder (0.111 g, 43%). 1H NMR (DMSO-d6, 400 MHz) 1.56-1.83 (m, 4H), 2.15 (s, 3H), 2.22-2.55 (m, 12H), 2.34 (s, 3H), 2.41 (s, 3H), 3.22-3.53 (m, 1H), 4.78-4.83 (m, 1H), 6.81 (s, 1H), 7.10 (s, 1H), 7.45-7.53 (m, 2H), 8.23 (s, 1H), 8.49 (t, 1H), 10.59 (s, 1H); RP-HPLC Rt 11.873 min, 95% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 570 (MH+).

reactant | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo [3,4-d]pyrimidin-4-amine | 0.453 mmol, 0.200 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | N2-[2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5,7-dimethyl-1,3-benzoxazol-2-amine | 0.566 mmol, 0.216 g | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC=1OC2=C(N1)C=C(C=C2C)C | C21H24BFN2O3
reactant | cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC=2OC1=C(N2)C=CC=C1)F)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C29H32FN9O
product | Cis-N2-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-fluorophenyl)-5,7-dimethyl-1,3-benzoxazol-2-amine | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)F)[C@@H]1CC[C@@H](CC1)N1CCN(CC1)C | C31H36FN9O
